US05723606
With cooling on an ice bath, a 793 mg portion of phenyltrimethylammonium tribromide was added to 20 ml of tetrahydrofuran solution containing 1.0 g of 4'-[(5-oxo-2,3,4,5-tetrahydro1H-1-benzazepin-1-yl)carbonyl]-2-isopropylbenzanilide, and the mixture was warmed up to room temperature. Filtration was carried out when disappearance of the color of bromine was confirmed after about 60 minutes. The filtered material was washed with tetrahydrofuran, and the filtrates were combined and concentrated. The thus obtained residue was dissolved in chloroform, washed with a sodium bicarbonate aqueous solution and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was further evaporated to dryness using a vacuum pump. The thus obtained solid substance was dissolved in 40 ml of chloroform, and the resulting solution was mixed with 1.11 g of acetamidine hydrochloride and 2.26 g of potassium carbonate and subjected to 20 hours of heating under reflux in a stream of argon. The resulting reaction solution was mixed with water to effect phase separation, and the organic layer was separated and dried over anhydrous magnesium sulfate. After removing the solvent by distillation under a reduced pressure, the thus obtained residue was crystallized from toluene to obtain 640 mg of 2-isopropoxy-4'-[(2-methyl-1,4,5,6-tetrahydroimidazo[4,5-d][1]benzazepin-6-yl)carbonyl]benzanilide. A 563 mg portion of this compound was dissolved in 5.5 ml of ethyl alcohol, mixed with 0.45 ml of 4N hydrochloric acid-ethyl acetate and recrystallized to obtain 400 mg of 2-isopropyl-4'-[(2-methyl-1,4,5,6-tetrahydroimidazo[4,5-d][1]benzazepin-6-yl)carbonyl]benzanilide hydrochloride.

reactant | phenyltrimethylammonium tribromide | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | 4'-[(5-oxo-2,3,4,5-tetrahydro1H-1-benzazepin-1-yl)carbonyl]-2-isopropylbenzanilide | 1.0 g | O=C1CCCN(C2=C1C=CC=C2)C(=O)C2=CC=C(NC(C1=C(C=CC=C1)C(C)C)=O)C=C2 | C27H26N2O3
reactant | water | O | H2O
product | 2-isopropoxy-4'-[(2-methyl-1,4,5,6-tetrahydroimidazo[4,5-d][1]benzazepin-6-yl)carbonyl]benzanilide | 640 mg | C(C)(C)OC1=C(C(=O)NC2=CC=C(C=C2)C(=O)N2CCC3=C(C4=C2C=CC=C4)NC(=N3)C)C=CC=C1 | C29H28N4O3
